US07732460B2
(a) 1,1-Dimethylethyl {1-[((4R/S)-3,4-difluoro-7-oxo-4,5-dihydro-7H-pyrrolo[3,2,1-de]-1,5-naphthyridin-4-yl)methyl]-4-piperidinyl}carbamate
A solution of 1,1-dimethylethyl {1-[(3-fluoro-4-hydroxy-7-oxo-4,5-dihydro-7H-pyrrolo[3,2,1-de]-1,5-naphthyridin-4-yl)methyl]-4-piperidinyl}carbamate (15.93 g, 38.1 mmol) in dichloromethane (320 ml) was cooled in an ice bath and treated with (diethylamino)sulphur trifluoride (10.1 ml, 75.9 mmol). After 2.5 hours at room temperature saturated aqueous sodium bicarbonate solution was added, then the phases separated. The aqueous phase was extracted twice more with dichloromethane and the combined organic extracts combined and evaporated. Chromatography eluting with a methanol in dichloromethane gradient afforded the product (5.35 g, 33%).

reactant | 1,1-dimethylethyl {1-[(3-fluoro-4-hydroxy-7-oxo-4,5-dihydro-7H-pyrrolo[3,2,1-de]-1,5-naphthyridin-4-yl)methyl]-4-piperidinyl}carbamate | 38.1 mmol, 15.93 g | FC=1C=NC=2C=CC(N3C2C1C(C3)(O)CN3CCC(CC3)NC(OC(C)(C)C)=O)=O | C21H27FN4O4
reactant | (diethylamino)sulphur trifluoride | 75.9 mmol, 10.1 ml | C(C)N(CC)S(F)(F)F | C4H10F3NS
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 320 ml | ClCCl | CH2Cl2
product | 1,1-Dimethylethyl {1-[((4R/S)-3,4-difluoro-7-oxo-4,5-dihydro-7H-pyrrolo[3,2,1-de]-1,5-naphthyridin-4-yl)methyl]-4-piperidinyl}carbamate | 5.35 g, 33% | FC=1C=NC=2C=CC(N3C2C1C(C3)(F)CN3CCC(CC3)NC(OC(C)(C)C)=O)=O | C21H26F2N4O3
